US06133271
Following the procedure of Example 97, the reaction of pyrazole with 2,5-dichloro-6-methyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine gives 2-(pyrazol-1-yl)-5-chloro-6-methyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine.

reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | 2,5-dichloro-6-methyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine | ClC=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC(=C(C=C2)OC)OC | C16H15Cl2N3O2S
product | 2-(pyrazol-1-yl)-5-chloro-6-methyl-4-(3,4-dimethoxybenzylamino)-thieno-[2,3-d]-pyrimidine | N1(N=CC=C1)C=1N=C(C2=C(N1)SC(=C2Cl)C)NCC2=CC(=C(C=C2)OC)OC | C19H18ClN5O2S
